US05872118
An ice cold solution of (E)-2-(4,6-difluoro-1-indanylidene)acetyl chloride (2.97 g, 0.013 mol) in dichloromethane (30 mL) was treated with cyclopropylamine (1.48 g, 0.026 mol, Aldrich) and the mixture was stirred for 4 h. The mixture was concentrated in vacuo and the residue was taken up in a mixture of ethyl acetate and 5% aqueous sodium bicarbonate. The ethyl acetate phase was washed with 5% aqueous sodium bicarbonate, saturated aqueous NaCl and dried (Na2SO4). Chromatography on silica gel with ethyl acetate: hexanes (1:1) as eluent and trituration of the resulting solid with pentane gave 1.92 g (59%) of (E)-N-cyclopropyl-2-(4,6-difluoro-1-indanylidene)acetamide as a white solid: m.p., 156°-158° C.;

reactant | (E)-2-(4,6-difluoro-1-indanylidene)acetyl chloride | 0.013 mol, 2.97 g | FC1=C2CC/C(/C2=CC(=C1)F)=C\C(=O)Cl | C11H7ClF2O
reactant | cyclopropylamine | 0.026 mol, 1.48 g | C1(CC1)N | C3H7N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (E)-N-cyclopropyl-2-(4,6-difluoro-1-indanylidene)acetamide | 1.92 g, 59% | C1(CC1)NC(/C=C/1\CCC2=C(C=C(C=C12)F)F)=O | C14H13F2NO
